US07662836B2
a) N-hexahydro-4-pyridinylmethyl-N-phenylmethylidene-amine
Benzaldehyde (4.6 g; 0.044 mol) was added dropwise to a solution of 4-aminomethylpiperidine (5.0 g; 0.044 mol) in toluene (20 ml). The solution thus obtained was stirred for 3 h at room temperature. Then the solvent was removed by evaporation at reduced pressure and the residue was taken up twice with toluene to give the desired product that was used as such without further purification.

reactant | Benzaldehyde | 0.044 mol, 4.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-aminomethylpiperidine | 0.044 mol, 5.0 g | NCC1CCNCC1 | C6H14N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-hexahydro-4-pyridinylmethyl-N-phenylmethylidene-amine | N1CCC(CC1)CN=CC1=CC=CC=C1 | C13H18N2
